Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
headache, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no significant PMH presents with 10 days of HA and 
fever. Patient awoke 10 days prior to admission with headache. 
Bilateral, circumfrential HA, not a/w phtophobia, phonophobia, 
nausea or vomiting. Headache did not resolve for days. She 
called and was seen by urgent care and was told to take 
ibuprophen and Benadryl to help with symptoms management, which 
did not relieve her pain. She presented to her PCP 2 days PTA 
and was administered a dose of toradol IM which helped relieve 
the frontal portion of the headache but also caused her to have 
abdominal discomfort and nausea. Of note, patient did not have a 
fever at her PCP ___. Patient continued to have pain and 
started to also experience dizziness, lightheadedness and 
weakness, for which she presented to BID ED.  
 Of note, patient denies any sick contacts. Denies spending a 
lot of time outside or in wooded areas.  
 
 In the ED, initial vitals were: 102.5 115 125/79 18 100% RA  
 
 Exam notable for: Not recorded  
 Labs notable for: Hyponatremia to 132, mildly elevated LFTS 
with ALT at 105 and AST at 79, otherwise nml. No leukocytosis. 
Bland UA  
 Imaging notable for: CTH w/No acute intracranial process. 
Please note that the sensitivity for detection of subarachnoid 
hemorrhage decreases over time.  
 Patient was given: 1L NS, vancomycin, CTX, metoclopramide, 1gm 
Tylenol, 1mg lorazepam and Benadryl  
 Vitals prior to transfer:  
 98.5 87 109/65 16 100% RA  
 On the floor, patient reports that her HA has improved. Denies 
neck stiffness or pain. No nausea or photophobia. 
 
Past Medical History:
Teratoma removed from right ovary as child  
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION
=========
 Vital Signs: 98.7 PO 109/63 92 20 100 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. No neck stiffness  

DISCHARGE
=========
VS:  T 101.1 (97.7-101.1) | 115/70 | 89 | 18 | 100%RA  
General: Well-appearing. Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Non-distended, bowel sounds present, soft, mild TTP in 
RUQ with palpable liver edge, no rebound or guarding. Murphys 
sign negative. No tenderness over McBurney's point.   
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
RUE: full range of motion. empty can test negative. Can reach 
behind back without pain. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. No neck stiffness  
 
 
Pertinent Results:
ON ADMISSION
=============

___ 08:12PM BLOOD WBC-7.0 RBC-4.86 Hgb-13.3 Hct-40.8 MCV-84 
MCH-27.4 MCHC-32.6 RDW-13.1 RDWSD-39.3 Plt ___
___ 08:12PM BLOOD Neuts-35 Bands-0 ___ Monos-9 Eos-2 
Baso-0 Atyps-7* ___ Myelos-0 Plasma-2* Other-0 AbsNeut-2.45 
AbsLymp-3.64 AbsMono-0.63 AbsEos-0.14 AbsBaso-0.00*
___ 08:12PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:12PM BLOOD Glucose-89 UreaN-11 Creat-0.9 Na-132* 
K-4.4 Cl-98 HCO3-22 AnGap-16
___ 08:12PM BLOOD ALT-105* AST-79* AlkPhos-52 TotBili-0.4
___ 08:12PM BLOOD Albumin-3.8 Calcium-8.7 Phos-2.7 Mg-1.7

ON DISCHARGE
============

___ 10:20AM BLOOD WBC-5.6 RBC-4.40 Hgb-12.3 Hct-37.7 MCV-86 
MCH-28.0 MCHC-32.6 RDW-13.3 RDWSD-41.5 Plt ___
___ 10:20AM BLOOD Neuts-47 Bands-0 ___ Monos-8 Eos-0 
Baso-0 Atyps-5* ___ Myelos-0 AbsNeut-2.63 AbsLymp-2.52 
AbsMono-0.45 AbsEos-0.00* AbsBaso-0.00*
___ 10:20AM BLOOD Glucose-96 UreaN-5* Creat-0.7 Na-137 
K-4.1 Cl-101 HCO3-28 AnGap-12
___ 06:00AM BLOOD ALT-238* AST-181* AlkPhos-61 TotBili-0.4
___ 10:20AM BLOOD Albumin-3.3* Calcium-8.5 Phos-2.7 Mg-1.9

ALT Trend
=========

ENZYMES & BILIRUBINALT
___ 06:00  238*
___ 10:20  170*
___ 06:15  122*
___ 06:20  107*
___ 10:20  107*
___ 20:12  105*

AST TREND
==========

ENZYMES & BILIRUBINAST
___ 06:00  181*
___ 10:20  110*
___ 06:15  83*
___ 06:20  66*
___ 10:20  78*
___ 20:12  79*

MICROBIOLOGY
=============
___ 6:15 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 12:50 am
      SEROLOGY/BLOOD      ADDED TO SPEC ___ ___. 

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 
__________________________________________________________
___ 10:15 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:20 pm Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 
__________________________________________________________
___ 9:20 pm Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      POSITIVE FOR CMV IgG ANTIBODY BY EIA. 
      155 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  INFECTION AT UNDETERMINED TIME. 
      A positive IgG result generally indicates past exposure. 
      Infection with CMV once contracted remains latent and may 
reactivate
      when immunity is compromised. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 
      If current infection is suspected, submit follow-up serum 
in ___
      weeks. 
__________________________________________________________
___ 9:20 pm BLOOD CULTURE      1 OF 2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 10:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
__________________________________________________________
___ 8:18 pm BLOOD CULTURE      X2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:18 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

HBsAg: Negative 
HBs-Ab: Negative 
HBc-Ab: Negative 
HAV-Ab: Positive 
IgM-HAV: Negative 
HCV-Ab: Negative

IMAGING
========
___ HEAD W/O CONTRAST
No acute intracranial process.  Please note that the sensitivity 
for detection of subarachnoid hemorrhage decreases over time.

___ OR GALLBLADDER US
Normal right upper quadrant ultrasound.

___ (PORTABLE AP)
Mildly enlarged globular heart, distinctly abnormal for 
___. 
Recommend cardiac echo.

___
Very small anterior pericardial effusion with no 2D echo 
evidence of tamponade. Normal biventricular systolic function. 

 
Brief Hospital Course:
___ with no significant PMH presented with 10d history of 
persistent global headaches and malaise. On night of admission 
she mounted a fever to 102.5F. There was initial concern for 
meningitis in ED, LP was attempted multiple times without 
success leading to admission to medicine. 

#Mononucleosis-like illness: On admission Ms. ___ had 
profound malaise, intermittent fevers up to 102.5F, atypical 
lymphocytes on smear and transaminase elevations (ALT>AST). Her 
initial infectious work-up including UA, Blood Cultures, CXR 
were negative. Monospot negative, CMV IgM negative (IgG 
positive), EBV VCA IgM (VCA/EBNA IgG positive) negative. Her 
fevers improved in frequency and maximum temperature over her 
admission. 

#Acute hepatitis: On admission patient had transaminase 
elevation with ALT predominance and no ALP or significant GGT 
elevation, consistent with hepatocellular pattern. Had 
mild-moderate RUQ pain and shoulder pain presumed to be 
secondary to hepatic capsule distension. RUQ-US without acute 
gallbladder pathology or liver abnormality. HAV IgM negative, 
HBsAg/HBcAb negative, HCV Ab negative. CMV and EBV negative. RUQ 
pain and right shoulder pain resolved on the day prior to 
discharge. His ALT and AST even though in the 100-300 range 
continued rising slowly but bilirubin and INR were normal and no 
signs of encephalopathy so not meeting any criteria for liver 
failure. 

#Enlarged cardiac silhouette: Initial CXR reported as 
"distinctly enlarged globular heart". Patient did not have 
dyspnea, peripheral edema or elevated JVP. Transthoracic echo 
reported as trivial pericardial effusion with no tamponade 
physiology with normal biventricular function and size. 

#Headache: 10 day history of headache prior to admission. First 
documented fever on presentation to care, but she reports having 
chills and sweats in the days prior. Given the timeframe, it is 
unlikely for her to have bacterial meningitis, since she would 
have deteriorated rapidly in a shorter time frame. Viral 
meningitis is a possibility. No associated GI symptoms, but she 
does mild hepatocellular pattern on LFTs. Concern for HSV 
meningitis is present but very small given no encephalitic 
symptoms. Does not have risk factors for tick borne illness. 
Discussed with patient and mother that her risk of herpes 
meningoencephalitis is small but present and that getting an LP 
would be the only way to exclude the diagnosis, which carries 
significant risks. We also discussed that typical viral 
meningitides do not need any treatment beyond symptomatic 
relief. Patient opted to hold off on lumbar puncture for now and 
to re-address if needed in case of neurological deterioration. 
During her course her headache improved, became intermittent and 
fully responsive to ibuprofen 400mg prn. 

TRANSITIONAL ISSUES:
#Atypical lymphocytes: Repeat CBC with differential on ___ to 
assess for resolution
#Transaminasemia: Repeat full LFT/Bili/INR on ___ to assess 
for trend. If persistence beyond 2 weeks would consider 
hepatology consultation for further work-up. 
#Verify if up to date with ___ age appropriate screening 
including HIV
#PPD placed at request of PCP ___ ___ in forearm, marked and 
dated. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. norethindrone-e.estradiol-iron 1 mg-20 mcg (21)/75 mg (7) 
oral DAILY 

 
Discharge Medications:
1. norethindrone-e.estradiol-iron 1 mg-20 mcg (21)/75 mg (7) 
oral DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0
3. Ibuprofen 400 mg PO Q8H:PRN Headache 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0
4. Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Mononucleosis-like Syndrome
Acute hepatitis

SECONDARY DIAGNOSIS
Trace pericardial effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You came in with 10 days of headache and fatigue as well a new 
fever. There was some suspicion for meningitis and the initial 
attempts at obtaining a lumbar puncture to rule this out failed. 
Taking into account your disease presentation we feel that a 
meningitis is very unlikely but the only way to fully rule it 
out is a lumbar puncture. We discussed the risks and benefits of 
deferring the lumbar puncture and you decided to avoid it. Your 
presentation and labs are more compatible with a 
mononucleosis-like viral illness leading to some inflammation in 
your liver. You may continue to have fevers and general malaise 
for a few more days.  We recommend that you abstain from contact 
sports for 3 months due to an increased risk of rupture of your 
spleen. You should follow-up with Dr. ___ on ___. 

It was a pleasure to take care of you.
Your ___ Medicine team. 
 
Followup Instructions:
___